US07528134B2
2-bromo-N-(3-methylphenyl)acetamide
3-Methylaniline (Acros, 15.50 mL, 141.8 mmol) in 2N aqueous sodium hydroxide (200 mL) at room temperature was treated with bromoacetyl chloride (Sigma, 12.50 mL, 152.0 mmol) as a solution in dichloromethane (200 mL). After 30 minutes, the layers were separated and the aqueous phase extracted with additional portions of dichloromethane. The organic phases were combined, washed with an aqueous solution of 1N HCl, dried (Na2SO4), filtered, and the filtrate concentrated under reduced pressure to provide 16.69 g (52% yield) of the title compound as a white solid. 1H NMR (300 MHz, DMSO-d6) δ2.28 (s, 3H), 4.01 (s, 2H), 6.91 (d, 1H, J=7.5 Hz), 7.20 (dd, 1H, J=7.5, 7.5 Hz), 7.36 (d, 1H, J=8.8 Hz), 7.42 (s, 1H), 10.28 (br s, 1H); MS (DCI/NH3) m/e 228/230 (M+H)+; 245/247 (M+NH4)+.

reactant | 3-Methylaniline | 141.8 mmol, 15.50 mL | CC=1C=C(N)C=CC1 | C7H9N
reactant | bromoacetyl chloride | 152.0 mmol, 12.50 mL | BrCC(=O)Cl | C2H2BrClO
solvent | sodium hydroxide | 2N, 200 mL | [OH-].[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-bromo-N-(3-methylphenyl)acetamide | 16.69 g, 52% yield | BrCC(=O)NC1=CC(=CC=C1)C | C9H10BrNO
